US07030141B2
Step 6: (2R,4R)-4-Hydroxy-pyrrolidine-2-carboxylic acid (3-fluoro-2′-methanesulfonyl-biphenyl-4-yl)-amide
(2R,4R)-4-(tert-Butyl-dimethyl-silanyloxy)-2-(3-fluoro-2′-methanesulfonyl-biphenyl-4-ylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (0.8 g, 1.35 mmol) was dissolved in 30 mL DCM, added 10 mL trifluoroacetic acid and stirred reaction at ambient temperature for 90 minutes. Solution was concentrated to yield title compound as an amber oil. (100% crude yield) APCI (AP−): (M−H)−.

reactant | (2R,4R)-4-(tert-Butyl-dimethyl-silanyloxy)-2-(3-fluoro-2′-methanesulfonyl-biphenyl-4-ylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.35 mmol, 0.8 g | C(C)(C)(C)OC(=O)N1[C@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)C(NC1=C(C=C(C=C1)C1=C(C=CC=C1)S(=O)(=O)C)F)=O | C29H41FN2O6SSi
reactant | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | (2R,4R)-4-Hydroxy-pyrrolidine-2-carboxylic acid (3-fluoro-2′-methanesulfonyl-biphenyl-4-yl)-amide | FC=1C=C(C=CC1NC(=O)[C@@H]1NC[C@@H](C1)O)C1=C(C=CC=C1)S(=O)(=O)C | C18H19FN2O4S
